US05051413
1.5 g of 2-amino-5-phosphono-3-pentenoic acid are suspended in 30 ml of n-pentanol and the suspension is saturated with hydrogen chloride gas for 3 hours at 50°. After concentration, the residue is dissolved in 15ml of n-pentanol, 15 ml of propylene oxide are added and the precipitate isfiltered off. Recrystallisation from water/acetone 1:1 yields E-2-amino-5-phosphono-3-pentenoic acid pentyl ester, m.p. 160°-161°.

reactant | 2-amino-5-phosphono-3-pentenoic acid | 1.5 g | NC(C(=O)O)C=CCP(=O)(O)O | C5H10NO5P
reactant | hydrogen chloride | Cl | ClH
solvent | n-pentanol | 30 ml | C(CCCC)O | C5H12O
product | E-2-amino-5-phosphono-3-pentenoic acid pentyl ester | C(CCCC)OC(C(\C=C\CP(=O)(O)O)N)=O | C10H20NO5P
